US07138425B2
c) 2-[4-Propylamino-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-5-(3,4-methylenedioxyphenyl)benzoxazole (157 mg, 0.40 mmol) and 1,2,4-benzenetricarboxylic anhydride (76 mg, 0.40 mmol) the title compound was obtained (82 mg, 36%). 1H NMR (DMSO) δ 13.78(s, 1H), 8.49(t, 1H), 8.42(dd, 1H), 8.30(s, 1H), 8.12(d, 1H), 8.07(d, 1H), 8.00(d, 1H), 7.78(d, 1H), 7.64(dd, 1H), 7.47(dd, 1H), 7.35(d, 1H), 7.24(dd, 1H), 7.04(d, 1H), 7.01(d, 1H), 6.08(s, 2H), 3.35(m, 2H), 1.76(m, 2H), 1.07(t, 3H). MS 562.2 m/z (M+H)+.

reactant | 2-(3-amino-6-propylaminophenyl)-5-(3,4-methylenedioxyphenyl)benzoxazole | 0.40 mmol, 157 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1 | C23H21N3O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.40 mmol, 76 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Propylamino-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CC)NC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C32H23N3O7
